US07795424B2
3-(2,2-Diethoxy-ethoxy)-benzoic acid ethyl ester
2-Bromoacetaldehyde diethyl acetal(3 ml, 20 mmol), ethyl-3-hydroxy-benzoate (1.66 g, 10 mmol), potassium carbonate (2.76 g, 20 mmol) and sodium iodide (0.298 g, 2 mmol) were heated at 120° C. in dimethyl formamide (DMF) (15 ml) for 17 hrs. Another batch of 2-bromoacetaldehyde diethyl acetal (3 ml, 20 mmol) was added and the reaction mixture was heated at 120° C. for another 24 hrs. The reaction was cooled to room temperature and all the solvents were evaporated under reduced pressure. The residues were partitioned between dichloromethane (DCM) (200 ml) and water (200 ml). The DCM layer was separated and the aqueous layer was back-extracted with DCM (2×100 ml). All the DCM extracts were combined, dried over MgSO4 and evaporated under reduced pressure. The residue was purified by a column chromatography (4×20 cm). The product was eluted with 100% DCM and the title compound was obtained as a colourless oil (2.21 g, 78.3%).

reactant | 2-Bromoacetaldehyde diethyl acetal | 20 mmol, 3 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | ethyl-3-hydroxy-benzoate | 10 mmol, 1.66 g | C(C)OC(C1=CC(=CC=C1)O)=O | C9H10O3
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 2 mmol, 0.298 g | [I-].[Na+]
reactant | 2-bromoacetaldehyde diethyl acetal | 20 mmol, 3 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(2,2-Diethoxy-ethoxy)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)OCC(OCC)OCC)=O | C15H22O5
